US04925839
Preparation of 1-[(1,1-Dimethyl-2-propynyl)oxy]-4-(trifluoromethoxy)benzene
To a solution of p-trifluoromethoxy phenol (30.69 g), and 2-methyl-2-chloro-3-butyne (53.00 g) in dry acetonitrile (350 mL) was added potassium iodide (14.30 g) followed by potassium carbonate (92.25 g). This reaction mixture was heated at 70°-80° C. for four days then cooled to room temperature and filtered through celite. The precipitate was washed with dichloromethane and the washings were added to the acetonitrile. The organics were evaporated in vacuo and the oil was taken up in 250 mL of dichloromethane. The organics were washed with water (2×100 mL) and dilute aqueous sodium thiosulfate (2×100 mL), dried (MgSO4), filtered and evaporated in vacuo to leave a dark brown-orange oil. Flash column chromatography on SiO2 using hexane/Et2O (5/1) afforded 34.73 g of the pure product.

reactant | p-trifluoromethoxy phenol | 30.69 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | 2-methyl-2-chloro-3-butyne | 53.00 g | CC(C)(C#C)Cl | C5H7Cl
reactant | potassium iodide | 14.30 g | [I-].[K+]
reactant | potassium carbonate | 92.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
solvent | hexane Et2O | CCCCCC.CCOCC
product | 1-[(1,1-Dimethyl-2-propynyl)oxy]-4-(trifluoromethoxy)benzene | 34.73 g | CC(C#C)(C)OC1=CC=C(C=C1)OC(F)(F)F | C12H11F3O2
